US04948794
To a solution of 2.68 g (25,0 mmol) benzylamine in 100 ml dry dimethylformamide was added 2.55 g (25.2 mmol) dry triethylamine. A solution of 4.65 g (25.0 mmol) 2,4-dinitro-1fluorbenzen in 20 ml dry dimethylformamide was added dropwise, and the reaction mixture was stirred at 25° C. for 1 h. The mixture was evaporated, and then dissolved in 50 ml ethylacetate and washed with 100 ml water. The ethyl acetate was evaporated to give 6.1 g (89 % ) N-benzyl-2,4- dinitroaniline. M.p. 106,2° C. 1H-NMR (CDCl3): 9.1 (1H, d), 8.9 (1H, broad s), 8.2 (1H, dd), 7.3 (5H,s), 6.9 (1H, d), 4.2 (2H, d).

reactant | benzylamine | 25,0 mmol, 2.68 g | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 25.2 mmol, 2.55 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-dinitro-1fluorbenzen | 25.0 mmol, 4.65 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | N-benzyl-2,4- dinitroaniline | 6.1 g, 89 % | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C13H11N3O4
